US04933271
19.2 g of 3-ethyl-3-hydroxymethyl-8,10-diphenyl-1,5-dioxa-9-thiaspiro[5.5]-undecane and 6.8 g of methyl benzoate are dissolved in 100 ml of xylene. About 20 ml of xylene are distilled off under a weak stream of nitrogen. After cooling to 110°, 0.1 g of LiNH2 are added and the mixture is heated at 135° for 8 hours, with stirring, the methanol formed being continuously distilled off together with a little xylene. After cooling to room temperature, 0.25 ml of glacial acetic acid and 3 g of bleaching earth are added. After stirring for 15 minutes, the mixture is filtered. The filtrate is filtered over 100 g of silica gel and evaporated in vacuo. The oily residue is dried at 70° in vacuo. 3-Ethyl-3-benzoyloxymethyl-8,10-diphenyl-1,5-dioxa-9-thiaspiro[5.5]-undecane is obtained as a pale yellowish resin.

reactant | 3-ethyl-3-hydroxymethyl-8,10-diphenyl-1,5-dioxa-9-thiaspiro[5.5]-undecane | 19.2 g | C(C)C1(COC2(OC1)CC(SC(C2)C2=CC=CC=C2)C2=CC=CC=C2)CO | C23H28O3S
reactant | methyl benzoate | 6.8 g | C(C1=CC=CC=C1)(=O)OC | C8H8O2
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-Ethyl-3-benzoyloxymethyl-8,10-diphenyl-1,5-dioxa-9-thiaspiro[5.5]-undecane | C(C)C1(COC2(OC1)CC(SC(C2)C2=CC=CC=C2)C2=CC=CC=C2)COC(C2=CC=CC=C2)=O | C30H32O4S
